US05171753
1-[[(2-Hydroxy-1,2-diphenylethyl)amino]methyl]-1,2-ethanediol.
A mixture of trans-stilbene oxide (3.93 g, 0.20 mol) and 1-amino-2,3-propanediol (5.46 g, 0.060 mol) was heated at 125° C. for 18 hours in an oil bath. After cooling, the reaction mixture was dissolved in 20 mL of methanol and the solution poured into 150 mL of water. The product separated from the solution as a viscous cream-colored oil that slowly solidified. The solid was collected by filtration and vacuum dried at 40° C. for 18 hours to give 3.81 g (66% yield) of material. The product was recrystallized from methanol-isopropyl ether to give 1.75 g; mp 161°-163° C.

reactant | trans-stilbene oxide | 0.20 mol, 3.93 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 1-amino-2,3-propanediol | 0.060 mol, 5.46 g | NCC(CO)O | C3H9NO2
reactant | water | 150 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 1-[[(2-Hydroxy-1,2-diphenylethyl)amino]methyl]-1,2-ethanediol | 3.81 g, 66% yield | OC(C(C1=CC=CC=C1)NCC(CO)O)C1=CC=CC=C1 | C17H21NO3
